US06025374
n-Butyl lithium (776 ml of a 2.5M solution in hexane, 1.94 mol) was added over a 2 h period to a stirred solution of 3-butyn-1-ol (68 g, 0.97 mol), in anhydrous THF (1.16 l), at -30° C. The mixture was stirred at -30° C. for 1 h (dianion precipitates out) and triethylsilyl chloride (300 g, 1.99 mol) was then added dropwise, ensuring that the temperature remained below -20° C. The solution was stirred at -10° C. for 1 h and then at room temperature for 1 h. Hexane (1.36 l) and Na2CO3 solution (7.0 g in 700 ml of H2O) were added to the reaction mixture, at -10° C., and the layers separated. The aqueous layer was extracted with hexane and the combined extracts were washed with water, dried (Na2SO4) and evaporated to give the title-bis triethylsilyl butynol (289 g, 100%), δ (250 MHz, CDCl3) 0.80-0.94 (12H, m, 6 of SiCH2CH3), 1.22-1.32 (18H, m, 6 of SiCH2CH3), 2.76 (2H, t, J=7.3Hz, CH2), 4.00 (2H, t, J=7.3Hz, CH2).

reactant | n-Butyl lithium | C(CCC)[Li]
reactant | 3-butyn-1-ol | 0.97 mol, 68 g | C(CC#C)O | C4H6O
reactant | triethylsilyl chloride | 1.99 mol, 300 g | C(C)[Si](CC)(CC)Cl | C6H15ClSi
solvent | hexane | CCCCCC | C6H14
solvent | THF | 1.16 l | C1CCOC1 | C4H8O
catalyst | Na2CO3 | 700 ml, 7.0 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | Hexane | 1.36 l | CCCCCC | C6H14
product | bis triethylsilyl butynol | 289 g, 100% | C(C)[Si](CC)(CC)C(C#CO)(C)[Si](CC)(CC)CC | C16H34OSi2
